US08383827B2
Step 1: Synthesis of 4-Bromo-2-ethoxy-benzonitrile
A mixture of 4-Bromo-2-fluoro-benzonitrile (5 g, 25.00 mmol), potassium carbonate (10.37 g, 75.0 mmol), ethanol (6.86 mL, 117 mmol) in DMF (50 mL) was heated at 60° C. for overnight. After filtration and concentration, the residue was dissolved in ethyl acetate (150 mL), and the solution was washed with water (30 mL) and brine (50 mL). After drying over Na2SO4, filtration and concentration, a light brown solid (5.7 g) was obtained without further purification. 1H NMR (400 MHz, CDCl3): δ 1.49 (t, J=7 Hz, 3H), 4.14 (q, J=7 Hz, 2H), 7.11 (d, J=1.7 Hz, 1H), 7.14 (dd, J=8.1, 1.7 Hz, 1H), 7.40 (d, J=8.1 Hz, 1H).

reactant | 4-Bromo-2-fluoro-benzonitrile | 25.00 mmol, 5 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | potassium carbonate | 75.0 mmol, 10.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 117 mmol, 6.86 mL | C(C)O | C2H6O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-2-ethoxy-benzonitrile | 5.7 g | BrC1=CC(=C(C#N)C=C1)OCC | C9H8BrNO
